US06716849B1
2-(2-Hydroxyethoxymethyl)-pyrido[2,3-d]imidazole
1,4-Dioxan-2-one (6.13 g, 60 mmol) and 2,3-diaminopyridine (5.46 g, 50 mmol) in mesitylene (100 ml) were heated at reflux in a Dean-Stark separator for 10 h. After cooling, mesitylene was decanted off and the residue was purified by silica gel chromatography (dichloromethane:methanol 9:1) (yield: 8.47 g, 87% of theory).

reactant | 1,4-Dioxan-2-one | 60 mmol, 6.13 g | O1C(COCC1)=O | C4H6O3
reactant | 2,3-diaminopyridine | 50 mmol, 5.46 g | NC1=NC=CC=C1N | C5H7N3
solvent | mesitylene | 100 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
product | 2-(2-Hydroxyethoxymethyl)-pyrido[2,3-d]imidazole | OCCOCC=1NC2=C(N1)N=CC=C2 | C9H11N3O2
